US04845100
1.9 Grams of 6-carboxy-3,4-dihydrocarbostyril was suspended in 200 ml of methylene chloride, then 2 ml of pyridine was added thereto. The mixture was kept at 0°-20° C., under stirring condition, 1.4 g of thionyl chloride was added dropwise. After the dropwise addition was finished, the whole reaction mixture was stirred for 1 hour at the same temperature, and 10 ml of methylene chloride containing 2.19 g of geranylpiperazine was added dropwise. After the dropwise addition was finished, the reaction mixture was stirred at room temperature for 4 hours. The reaction mixture was thoroughly washed with an aqueous solution of potassium carbonate, then further washed with water and diluted hydrochloric acid, then dried with anhydrous sodium sulfate, and the solvent was removed by evaporation. The residue thus obtained was converted into hydrochloride by adding ethanol-hydrochloric acid, and recrystallized from ethanol-water to obtain 343 mg of 6-(4-geranyl-1-piperazinylcarbonyl)-3,4-dihydrocarbostyril hydrochloride.monohydrate. Colorless needle-like crystals. Melting point: 265°-266° C. (dec.).

reactant | 6-carboxy-3,4-dihydrocarbostyril | C(=O)(O)C=1C=C2CCC(NC2=CC1)=O | C10H9NO3
reactant | thionyl chloride | 1.4 g | S(=O)(Cl)Cl | Cl2OS
reactant | geranylpiperazine | C(\C=C(/C)\CCC=C(C)C)N1CCNCC1 | C14H26N2
reactant | hydrochloride | Cl | ClH
reactant | ethanol hydrochloric acid | C(C)O.Cl
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml, 2.19 g | C(Cl)Cl | CH2Cl2
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | 6-(4-geranyl-1-piperazinylcarbonyl)-3,4-dihydrocarbostyril hydrochloride | 343 mg | Cl.C(\C=C(/C)\CCC=C(C)C)N1CCN(CC1)C(=O)C=1C=C2CCC(NC2=CC1)=O | InChI=1S/C24H33N3O2.ClH/c1-18(2)5-4-6-19(3)11-12-26-13-15-27(16-14-26)24(29)21-7-9-22-20(17-21)8-10-23(28)25-22;/h5,7,9,11,17H,4,6,8,10,12-16H2,1-3H3,(H,25,28);1H/b19-11+;
